US08242133B2
A mixture of 2.0 g of 6-amino-1,1,3,3-tetrafluoro-5-hydroxy-1,3-dihydroisobenzofuran, 1.1 g of isonicotinic acid, 2.23 g of WSC and 15 ml of pyridine was stirred while heating at 80° C. for three hours. The reaction mixture was cooled to room temperature, and then water was poured into the reaction mixture. Precipitated solid was filtered and washed with water and dried under reduced pressure to give 1.34 g of N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide.

reactant | 6-amino-1,1,3,3-tetrafluoro-5-hydroxy-1,3-dihydroisobenzofuran | 2.0 g | NC1=C(C=C2C(OC(C2=C1)(F)F)(F)F)O | C8H5F4NO2
reactant | isonicotinic acid | 1.1 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | WSC | 2.23 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-(1,1,3,3-tetrafluoro-6-hydroxy-1,3-dihydroisobenzofuran-5-yl)isonicotinamide | 1.34 g | FC1(OC(C2=CC(=C(C=C12)O)NC(C1=CC=NC=C1)=O)(F)F)F | C14H8F4N2O3
